US06951955B2
To a solution of N,β,β-trimethylphenylalaninamide (2.0 g, 9.7 mmol) in acetonitrile (6.0 mL) at ambient temperature is added a solution of di-tert-butyl dicarbonate (2.33 g, 10.6 mmol) in acetonitrile (6.0 mL). After 24 hours, the reaction mixture is filtered and the product washed with acetonitrile (3 mL×2) to afford N-(tert-butoxycarbonyl)-N,β,β-trimethylphenylalaninamide (1.12 g, 40%, 97.6% HPLC area) as a white solid.

reactant | N,β,β-trimethylphenylalaninamide | 9.7 mmol, 2.0 g | CNC([C@@H](N)C(C1=CC=CC=C1)(C)C)=O | C12H18N2O
reactant | di-tert-butyl dicarbonate | 10.6 mmol, 2.33 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 6.0 mL | C(C)#N | C2H3N
solvent | acetonitrile | 6.0 mL | C(C)#N | C2H3N
product | N-(tert-butoxycarbonyl)-N,β,β-trimethylphenylalaninamide | 1.12 g | C(C)(C)(C)OC(=O)N(C([C@@H](N)C(C1=CC=CC=C1)(C)C)=O)C | C17H26N2O3
